Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Failure to thrive
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs ___ is an ___ with DM2, HTN, hypovitaminosis D, remote PUD 
s/p surgery, and possible diagnosis of dementia by records who 
was brought in by her family for multiple complaints.

History is difficult as the patient and her two sons are 
generally poor historians, and the patient is ___ 
speaking. Patient's PCP is also unavailable at the time of 
evaluation.

According to her sons, she has had a slowly progressive decline 
in functioning over months. They thought she was lonely and 
somewhat depressed, but in discussions with her sons it sounds 
like she has become more and more dependent on their assistance. 
She previously lived alone but her younger son has brought her 
to live with him (though he maintains her private dwelling). 
Younger son also noted 1 or 2 episodes of outright confusion, 
cannot further describe, resolved after some reorientation.

She had a relatively recent PCP visit, just ___ regular check-up, 
and on the visit summary report that was given to her family 
there was documentation of "Cognitive deficits associated with 
cerebrovascular disease." This concerned her older son immensely 
(the one who does not live with her), and he decided to come 
check in on her over the weekend. He was concerned that she 
appeared tired, weak, and most concerned that she was having 
difficulty with foods. He thought she was aspirating and having 
difficulty swallowing.

Because of these issues, they took her to our ED for evaluation. 
Here she had normal vital signs (mild tachy and low grade temp 
of 99.6 initially, but resolved without any apparent 
interventions). Labs were sent and were generally unremarkable. 
Home meds were administered.

A 10 point ROS was performed to the best of my ability, but was 
partially unobtainable owing to patient and family 
tangentiality.
 
Past Medical History:
PMH/PSH: DM2, HTN, hypovitaminosis D, remote PUD s/p surgery, 
and possible diagnosis of dementia by records 
 
Social History:
___
Family History:
Family history is unknown
 
Physical Exam:
Exam on admission - unchanged at discharge:
 Vitals AVSS
 Gen NAD, quite pleasant
 Abd soft, NT, ND, bs+
 CV RRR, no MRG
 Lungs CTA ___
 Ext WWP, no edema
 Skin no rash, anicteric
 GU no foley
 Eyes EOMI
 HENT MMM, OP clear
 Neuro nonfocal, moves all extremities, some difficulty 
following multistage commands, CN II-XII intact bilaterally, 
good UE and ___ strength ___ biceps/triceps, hip flexors), 
intact finger to nose
 Psych flat affect, AAOx2 (misses date, takes a long time to 
respond to orientation questions), difficulty elaborating on 
followup questions
 
Pertinent Results:
Labs on admission:
___ 02:44AM BLOOD WBC-4.7 RBC-4.52 Hgb-12.7 Hct-38.5 MCV-85 
MCH-28.1 MCHC-33.0 RDW-13.1 RDWSD-40.0 Plt ___
___ 02:44AM BLOOD Neuts-43.8 ___ Monos-11.3 
Eos-0.4* Baso-0.6 AbsNeut-2.05 AbsLymp-2.06 AbsMono-0.53 
AbsEos-0.02* AbsBaso-0.03
___ 02:44AM BLOOD Glucose-133* UreaN-21* Creat-0.8 Na-138 
K-4.5 Cl-102 HCO3-25 AnGap-16
___ 02:44AM BLOOD ALT-16 AST-20 AlkPhos-64 TotBili-0.3
___ 02:44AM BLOOD Lipase-54
___ 02:44AM BLOOD Albumin-4.1 Calcium-10.4* Phos-2.6* 
Mg-1.9
___ 02:44AM BLOOD TSH-PND
___ 02:44AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:49AM BLOOD Lactate-1.7

Other important laboratory studies
___ 07:00AM BLOOD VitB12-904*
___ 02:44AM BLOOD TSH-0.66
___ 02:51AM BLOOD PTH-65
___ 02:44AM BLOOD 25VitD-40
___ 07:00AM BLOOD CRP-0.5
___ 07:00AM BLOOD HIV Ab-Negative
___ 07:00AM BLOOD SED RATE-Test
Blood culture negative
Urine culture negative
RPR negative
Crypto Ag negative

Imaging from admission
CXR - impression - Left upper lobe scarring and/or atelectasis, 
chronicity indeterminate.

Head CT - impression - Normal study

Brain MRI - impression - 
1. Nonspecific punctate T1 intrinsic hyperintense focus with 
associated 
gradient echo susceptibility and FLAIR hyperintensity of the 
left precentral  gyrus, demonstrating equivocal postcontrast 
enhancement.  This may simply  represent a capillary 
telangiectasia versus sequela of prior microhemorrhage.  
Follow-up in 2 months is recommended to document stability or 
resolution. 
2. No additional lesions are identified.  No acute infarct. 
3. Mild presume senescent global cerebral volume loss without 
specific pattern to suggest etiology of patient's symptoms.
 
Brief Hospital Course:
___ with DM2, HTN, hypovitaminosis D, remote PUD s/p surgery, 
and possible diagnosis of dementia by records who was brought in 
by her family for multiple complaints that sound like possible 
failure to thrive, potentially on background of 
dementia-vs-depression-syndrome, with some recent concerns about 
aspiration which may have more to do with hypervigilance in 
setting of recent discovery that PCP was concerned about
"cognitive deficits."

She had an extensive evaluation including psychiatry consult, 
MRI brain, laboratory studies, ___ consultations. The overall 
burden of available evidence points to a mild cognitive 
impairment / early dementia. Repeated discussions with family 
members elucidated that the main concerns were poor sleep at 
night as well as occasional confusion and a slow decline in 
ability to care for herself. Psychiatry discovered that she had 
been prescribed Benadryl for sleep, which can certainly worsen 
mental status, so family and patient were encouraged to avoid 
this; I prescribed her melatonin for sleep at discharge.

___ recommended 24 hour supervision and short term rehab. 
Extensive discussions with family members about this led to 
decision to go home with 24 hour supervision and support, going 
to her daughter's house, with extensive services that have 
___ speaking staff. Family was also given lots of 
information about ___ adult daycare and several other senior 
support services that they expressed a desire and plan to 
initiate/obtain/enroll.

# FTT
# Progressive decline in functioning consistent with
# Dementia: Psychiatry consult notable for mild cognitive 
impairment. B12, RPR, HIV, Ucx, Bcx all negative. MRI w/wo 
contrast with global atrophy. Overall diagnosis most likely 
early Alzheimer type dementia.
- Avoid CNS depressing medications like Benadryl
- Maximal services ___, OT, 24 hour supervision at home

# Insomnia: She has had difficulty sleeping for many years. Per 
records, she has tried Remeron and it also looked like she had 
Benadryl RX, as above. Encouraged to avoid traditional sleep 
aids for fear of delirium.
- Melatonin 5mg every 8PM prescribed at discharge

# Area of scarring vs other process in RUL: Likely scarring, 
potentially old TB related, given her lifetime ___ 
epidemiologic exposures; cannot r/o malignancy at this stage, 
though no smoking history. No cough, fevers, sweats, hemoptysis
to suggest any active TB.
- Outpatient evaluation by PCP, starting with chest CT is 
appropriate
- Attempted contact with PCP several times but they did not call 
back or answer, sent letter

# Possible aspiration events reported on admission: She was 
evaluated by SLP and cleared for diet. No issues observed here.
- Continue diet of regular/thin; sometimes prefers softer foods 
given dentures

# DM
# HTN: Both stable
- Continued metformin and losartan

# Nonspecific punctate T1 intrinsic hyperintense focus on MRI:
- Followup MRI in 2 months was recommended
- Attempted contact with PCP several times but they did not call 
back or answer, sent letter

PPX: Heparin

Code: Full code here

Billing: >30 minutes spent coordinating discharge to home

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Acetaminophen 650 mg PO Q6H:PRN pain, headache 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain, headache 
2. Losartan Potassium 50 mg PO DAILY 
3. MetFORMIN (Glucophage) 500 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. melatonin 5 mg oral every 8PM 
RX *melatonin 5 mg 1 tablet(s) by mouth every evening at 8PM 
Disp #*90 Tablet Refills:*3

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mild failure to thrive
Age related cognitive decline consistent with potentially mild 
dementia
 
Discharge Condition:
Mental Status: Clear and coherent, though sometimes confused.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory. Needs 24 hour assistance and 
supervision.
 
Discharge Instructions:
Mrs ___,

___ were admitted to the hospital out of concern for loneliness, 
occasional confusion, poor appetite. ___ had an extensive 
evaluation including laboratory studies, imaging, psychiatry 
consultation, which was generally reassuring. It was felt that 
___ had some age-related problems with your thought processes 
(what we call age-related cognitive decline), which could be 
consistent with a mild dementia.

___ worked with the physical and occupational therapists. ___ 
had some trouble following commands with them, and their 
recommendation was that ___ go to a short term rehab. After 
extensive discussions with ___, your family, case management, 
social work, it was felt that it would be best for ___ to go to 
stay with your family in a situation where ___ have 24 hour care 
and supervision. Your family was able to arrange this quickly.

The psychiatrist who evaluated ___ noticed that ___ were 
receiving prescriptions for Benadryl (diphenhydramine) to take 
at night to help ___ sleep. ___ SHOULD NOT TAKE THIS MEDICATION 
AS IT CAN LEAD TO WORSENING CONFUSION IN OLDER INDIVIDUALS! 

Please follow up very closely with your PCP.

___, MD
___ ___
 
Followup Instructions:
___